US07125901B2
N-(4-[2-(4-Aminophenyl)ethyl]-1,3-thiazol-2-yl)acetamide (150 mg) was dissolved in THF (2 ml) and pH=7 buffer (2 ml). Then, ethyl imidoformate hydrochloride (1.26 g) was added to the solution at 0° C. The reaction mixture was stirred at 0° C. for 2 hours, and concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with CH3CN/water (7:3) as an eluent. The oil was purified again by preparative silica gel chromatography with CHCl3/MeOH (5:1) as an eluent to give N-[4-(2-{4-[(iminomethyl)amino]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide (110 mg) as pale brown oil.

reactant | N-(4-[2-(4-Aminophenyl)ethyl]-1,3-thiazol-2-yl)acetamide | 150 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C13H15N3OS
reactant | ethyl imidoformate hydrochloride | 1.26 g | Cl.C(OCC)=N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[4-(2-{4-[(iminomethyl)amino]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide | 110 mg | N=CNC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H16N4OS
